US09406977B2
A quantity of 3,3,4,5,5,5-hexafluoropentan-2-ol was prepared by combining absolute ethanol 200 proof (100 g, 2.17 moles, AAPER Alcohol and Chemical Co.) with t-amyl peroxy-2-ethylhexanoate (5 g, 0.021 moles) (available as Luperox 575 from Arkema, Oakville, Ontario, Canada) in a 600 mL Parr pressure reactor. The reactor was heated to 75 C and hexafluoropropene (120 g, 0.8 moles) (MDA Manufacturing Inc., Decatur, Ala.) was added at a constant rate. The reactor was allowed to stir at this temperature for 16 h. The crude reaction material was distilled using a ten plate Oldershaw column to afford 150 g of 3,3,4,5,5,5-hexafluoropentan-2-ol (b.p.=121° C.).

reactant | ethanol 200 proof | 2.17 moles, 100 g | CCO | C2H6O
reactant | hexafluoropropene | 0.8 moles, 120 g | FC(C(=C(F)F)F)(F)F | C3F6
product | 3,3,4,5,5,5-hexafluoropentan-2-ol | 150 g | FC(C(C)O)(C(C(F)(F)F)F)F | C5H6F6O
